data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:9][O:8][C:23]([CH:2]=[C:10]([CH3:24])[N:34]=[N:19][C:3](=[O:20])[NH:22][c:25]1[cH:30][cH:17][cH:26][cH:18][cH:31]1)=[O:21].[cH:4]1[cH:11][c:33]([CH:6]=[C:38]2[CH:35]=[CH:15][C:29](=[N+:32]([O-:27])[O-:28])[CH:16]=[CH:36]2)[cH:12][cH:5][c:13]1[N+:37](=[O:7])[O-:14]>>[CH3:1][CH2:9][O:8][C:23]([CH:2]([CH:6]([c:33]1[cH:11][cH:4][c:13]([N+:37](=[O:7])[O-:14])[cH:5][cH:12]1)[c:38]1[cH:35][cH:15][c:29]([N+:32](=[O:27])[O-:28])[cH:16][cH:36]1)[C:10]([CH3:24])=[N:34][N:19]=[C:3]([O-:20])[NH:22][c:25]1[cH:30][cH:17][cH:26][cH:18][cH:31]1)=[O:21]", "epd": [["LP-/Pi+", [27], [32, 27]], ["Pi-/Pi+", [29, 32], [15, 29]], ["Pi-/Pi+", [35, 15], [38, 35]], ["Pi-/Sigma+", [6, 38], [6, 2]], ["Pi-/Pi+", [2, 10], [10, 34]], ["Pi-/Pi+", [34, 19], [19, 3]], ["Pi-/LP+", [3, 20], [20]]]}
{"reaction_name": "Pyridinium ylide generation", "rsmi": "[Br-:2].[NH2-:3].[cH:1]1[cH:6][cH:8][n+:4]([CH2:5][H:10])[cH:9][cH:7]1>>[Br-:2].[NH2:3][H:10].[cH:1]1[cH:6][cH:8][n+:4]([CH2-:5])[cH:9][cH:7]1", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Sigma-/LP+", [5, 10], [5]]]}
{"reaction_name": "Haller–Bauer cleavage", "rsmi": "[CH3:1][C:8](=[O:2])[c:10]1[cH:6][cH:4][cH:3][cH:5][cH:7]1.[H:9][O-:11]>>[CH3:1][C:8](=[O:2])[O-:11].[cH:3]1[cH:4][cH:6][c:10]([H:9])[cH:7][cH:5]1", "epd": [["Sigma-/Sigma+", [8, 10], [8, 11]], ["Sigma-/Sigma+", [9, 11], [9, 10]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[C:1]12=[N:5][CH2:7][CH2:23][CH2:18][N:8]1[c:6]1[c:15]([cH:2][cH:31][cH:20][cH:26]1)[S:9]2.[CH3:3][O:4][c:10]1[cH:29][cH:16][c:14]([CH:25]=[C:24]2[CH:27]=[C:11]([Br:21])[C:13](=[O:19])[C:12]([Br:22])=[CH:28]2)[cH:17][cH:30]1>>[c:1]12[n+:8]([c:6]3[c:15]([cH:2][cH:31][cH:20][cH:26]3)[s:9]1)[CH2:18][CH2:23][CH2:7][N:5]2[CH:25]([c:14]1[cH:16][cH:29][c:10]([O:4][CH3:3])[cH:30][cH:17]1)[c:24]1[cH:27][c:11]([Br:21])[c:13]([O-:19])[c:12]([Br:22])[cH:28]1", "epd": [["LP-/Pi+", [8], [1, 8]], ["Pi-/Sigma+", [5, 1], [5, 25]], ["Pi-/Pi+", [25, 24], [24, 27]], ["Pi-/Pi+", [27, 11], [11, 13]], ["Pi-/LP+", [13, 19], [19]]]}
{"reaction_name": "Chugaev xanthate pyrolysis", "rsmi": "[CH3:1][CH:5]([O:3][C:6]([S:2][CH3:9])=[S:8])[CH:7]([CH3:4])[H:10]>>[CH3:1][CH:5]=[CH:7][CH3:4].[O:3]=[C:6]=[S:8].[S:2]([CH3:9])[H:10]", "epd": [["LP-/Sigma+", [2], [2, 10]], ["Sigma-/Pi+", [7, 10], [5, 7]], ["Sigma-/LP+", [3, 5], [3]], ["LP-/Pi+", [3], [3, 6]], ["Sigma-/LP+", [2, 6], [2]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH:2]1=[CH:3][c:4]2[cH:10][cH:9][cH:17][cH:7][c:13]2[CH:19]1[Na:14].[cH:1]1[cH:5][cH:15][c:12]([N+:8](=[CH2:11])[CH3:18])[cH:16][cH:6]1>>[Na+:14].[cH:1]1[cH:5][cH:15][c:12]([N:8]([CH2:11][CH:19]2[CH:2]=[CH:3][c:4]3[cH:10][cH:9][cH:17][cH:7][c:13]32)[CH3:18])[cH:16][cH:6]1", "epd": [["Sigma-/Sigma+", [19, 14], [19, 11]], ["Pi-/LP+", [11, 8], [8]]]}
{"reaction_name": "Quaternary ammonium alkylation", "rsmi": "[CH3:1][I:3].[N:2]([CH3:4])([CH3:5])[CH3:6]>>[CH3:1][N+:2]([CH3:4])([CH3:5])[CH3:6].[I-:3]", "epd": [["LP-/Sigma+", [2], [1, 2]], ["Sigma-/LP+", [1, 3], [3]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:14]1[cH:12][c:17]([N+:25](=[O:11])[O-:28])[cH:26][c:13]2[c:31]1[n:23][o:30][n+:41]2[O-:3])[O-:18].[cH:4]1[cH:6][c:37]([B-:38]2([c:16]3[s:24][c:15]([CH3:29])[cH:19][cH:32]3)[O:9][c:39]3[cH:34][cH:36][cH:35][cH:33][c:40]3[O:10]2)[cH:7][cH:5][c:8]1[C:27]([F:20])([F:21])[F:22]>>[N+:1](=[O:2])([C:14]1=[CH:12][C:17](=[N+:25]([O-:11])[O-:28])[CH:26]([c:16]2[s:24][c:15]([CH3:29])[cH:19][cH:32]2)[c:13]2[c:31]1[n:23][o:30][n+:41]2[O-:3])[O-:18].[cH:4]1[cH:6][c:37](-[b-:38]2[o+:9][c:39]3[cH:34][cH:36][cH:35][cH:33][c:40]3[o:10]2)[cH:7][cH:5][c:8]1[C:27]([F:20])([F:21])[F:22]", "epd": [["LP-/Pi+", [9], [38, 9]], ["Sigma-/Sigma+", [16, 38], [16, 26]], ["Pi-/Pi+", [26, 17], [17, 25]], ["Pi-/LP+", [25, 11], [11]]]}
{"reaction_name": "Wittig ylide generation", "rsmi": "[Br-:1].[CH2:3]([P+:7]([CH3:4])([CH3:5])[CH3:6])[H:8].[NH2-:2]>>[Br-:1].[CH2-:3][P+:7]([CH3:4])([CH3:5])[CH3:6].[NH2:2][H:8]", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [3, 8], [3]]]}
{"reaction_name": "Niementowski quinazoline synthesis", "rsmi": "[c:1]1([N:2]([H:12])[H:13])[cH:3][cH:4][cH:5][cH:6][c:7]1[C:8](=[O:9])[O:10][H:11].[CH:17](=[O:18])[N:14]([H:15])[H:16]>>[O:9]=[C:8]1[N:14]([H:15])[CH:17]=[N:2][c:1]2[cH:3][cH:4][cH:5][cH:6][c:7]21.[O:10]([H:11])[H:13].[O:18]([H:12])[H:16]", "epd": [["LP-/Sigma+", [14], [8, 14]], ["Pi-/LP+", [8, 9], [9]], ["LP-/Sigma+", [10], [10, 13]], ["Sigma-/LP+", [2, 13], [2]], ["LP-/Pi+", [9], [8, 9]], ["Sigma-/LP+", [8, 10], [10]], ["LP-/Sigma+", [2], [2, 17]], ["Pi-/LP+", [17, 18], [18]], ["LP-/Sigma+", [18], [12, 18]], ["Sigma-/LP+", [2, 12], [2]], ["LP-/Sigma+", [18], [16, 18]], ["Sigma-/LP+", [14, 16], [14]], ["LP-/Pi+", [2], [2, 17]], ["Sigma-/LP+", [17, 18], [18]]]}
